US07081538B1
(5RS)-3-(3-Fluoro-4-(1-t-butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)phenyl)-5-(N-(t-butoxycarbonyl)isoxazol-3-ylaminomethyl)-4,5-dihydroisoxazole
Tris(dibenzylideneacetone)dipalladium (141 mg, 0.154 mM) and triphenylarsine (188 mg, 0.616 mM) were dissolved in degassed N-methylpyrrolidone (40 ml) under nitrogen, and stirred for 15 minutes. (5RS)-3-(3-Fluoro-4-iodophenyl)-5-(N-(t-butoxycarbonyl)isoxazol-3-ylaminomethyl)-4,5-dihydro-isoxazole (1.5 g, 3.08 mM) and 1-t-butoxycarbonyl-4-trimethylstannyl-1,2,5,6-tetrahydropyridine (1.99 g, 4.62 mM) were added, and the reaction heated at 70–80° for 18 hours. The mixture was filtered through celite and evaporated to dryness, and the residue chromatographed on a 40 g silica Biotage column, eluting with 25% ethyl acetate in isohexane. Relevant fractions were combined to give the desired product (817 mg).

reactant | triphenylarsine | 0.616 mM, 188 mg | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | (5RS)-3-(3-Fluoro-4-iodophenyl)-5-(N-(t-butoxycarbonyl)isoxazol-3-ylaminomethyl)-4,5-dihydro-isoxazole | 3.08 mM, 1.5 g | FC=1C=C(C=CC1I)C1=NOC(C1)CN(C(=O)OC(C)(C)C)C1=NOC=C1 | C18H19FIN3O4
reactant | 1-t-butoxycarbonyl-4-trimethylstannyl-1,2,5,6-tetrahydropyridine | 4.62 mM, 1.99 g | C(C)(C)(C)OC(=O)N1CC=C(CC1)[Sn](C)(C)C
solvent | N-methylpyrrolidone | 40 ml | CN1C(CCC1)=O | C5H9NO
catalyst | Tris(dibenzylideneacetone)dipalladium | 0.154 mM, 141 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (5RS)-3-(3-Fluoro-4-(1-t-butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)phenyl)-5-(N-(t-butoxycarbonyl)isoxazol-3-ylaminomethyl)-4,5-dihydroisoxazole | 817 mg | FC=1C=C(C=CC1C1=CCN(CC1)C(=O)OC(C)(C)C)C1=NOC(C1)CN(C(=O)OC(C)(C)C)C1=NOC=C1 | C28H35FN4O6
